US08133882B2
To 500 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde were added 5 ml of ethanol, 460 mg of sodium acetate and 290 mg of hydroxylamine hydrochloride, followed by stirring at room temperature for 15 hours and at 70° C. for 12 hours. The solvent was evaporated under a reduced pressure, and water was added to the resulting residue, followed by extraction with chloroform and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure to obtain 300 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde oxime.

reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 500 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=O)=O)F | C21H25FN2O2
reactant | sodium acetate | 460 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 290 mg | Cl.NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde oxime | 300 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=NO)=O)F | C21H26FN3O2
